US07056349B2
2-Chloro-1,4-benzoquinone-4-oxime was prepared by reaction of 2-chlorophenol with sodium nitrite under acidic conditions by the method described by T. Ishikawa et al. in J. Org. Chem. 1996, 61, page 2778.

reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 2-Chloro-1,4-benzoquinone-4-oxime | ClC=1C(C=CC(C1)=NO)=O | C6H4ClNO2
